US06265588B1
5-Methylisoxazole-4-carboxylic acid (4-(3-iodopropoxy)phenyl)amide
6.5 g (0.03 mol) of 5-methylisoxazole-4-carboxylic acid (4-hydroxyphenyl)amide are dissolved in 57 ml (0.5 mol) of 1,3-diiodopropane and 26.2 g (0.19 mol) of finely ground potassium carbonate are added with intensive stirring. The reaction is complete after approximately 4 h. Working up is carried out by means of filtration, concentration and chromatography on silica gel by means of ethyl acetate/petroleum ether 1:1 with addition of 1% glacial acetic acid. The yield of the process was 6.7 g.

reactant | 5-methylisoxazole-4-carboxylic acid (4-hydroxyphenyl)amide | 0.03 mol, 6.5 g | OC1=CC=C(C=C1)NC(=O)C=1C=NOC1C | C11H10N2O3
reactant | 1,3-diiodopropane | 0.5 mol, 57 ml | ICCCI | C3H6I2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-Methylisoxazole-4-carboxylic acid (4-(3-iodopropoxy)phenyl)amide | ICCCOC1=CC=C(C=C1)NC(=O)C=1C=NOC1C | C14H15IN2O3
